US05587483
2. Preparation of i-Butyl-1H-Tetrazole-5-Carboxylate
To a stirred suspension of tetrazole-5-carboxylic acid disodium salt (15.8 g, 0.1 mol) in dimethylformamide (100 ml) under a nitrogen atmosphere at 5° was added isobutyl chloroformate (13.6 g, 13 ml, 0.1 mol) dropwise over 15 minutes. The mixture was stirred at 5°-10° for 2 hours, then at 20° for 2 hours. The mixture was added to water (500 ml) and extracted with ethyl acetate (2×200 ml). The aqueous phase was then acidified to pill with conc. HCl and further extracted with ethyl acetate (2×200 ml). The latter extracts were washed with water (2×200 ml), dried (MgSO4) and evaporated to give the title compound as a gum (8.6 g, 50.5%).

reactant | tetrazole-5-carboxylic acid disodium salt | 0.1 mol, 15.8 g | [Na+].[Na+].N1N=NN=C1C(=O)[O-].N1N=NN=C1C(=O)[O-]
reactant | isobutyl chloroformate | 0.1 mol, 13 ml, 13.6 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | i-Butyl-1H-Tetrazole-5-Carboxylate | 8.6 g, 50.5% | C(C(C)C)OC(=O)C1=NN=NN1 | C6H10N4O2
